US05654307
A solution of 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine (0.26 g, 0.81 mmol) and sodium methoxide (prepared from 75 mg of sodium, 3.26 mmol) in dry MeOH (15 mL) is heated at 90° C. in a pressure vessel for 18 h. The mixture is poured into water and extracted with EtOAc to give 4-(3-bromoanilino)-7-methoxypyrido[2,3-d]pyrimidine (0.23 g, 86%). 1H NMR (DMSO) δ 9.88 (1H, brs), 8.82 (1H, d, J=8.9 Hz), 8.71 (1H, s), 8.18 (1H, dd, J=8.0, 1.9 Hz), 7.36 (1H, dd, J=8.1, 8.0 Hz), 7.29 (1H, ddd, J=8.1, 1.9, 1.9 Hz) 7.15 (1H, d, J=8.9 Hz), 4.01 (3H, s).

reactant | 4-(3-bromoanilino)-7-fluoropyrido[2,3-d]pyrimidine | 0.81 mmol, 0.26 g | BrC=1C=C(NC=2C3=C(N=CN2)N=C(C=C3)F)C=CC1 | C13H8BrFN4
reactant | sodium methoxide | 3.26 mmol, 75 mg | C[O-].[Na+]
reactant | water | O | H2O
solvent | MeOH | 15 mL | CO | CH4O
product | 4-(3-bromoanilino)-7-methoxypyrido[2,3-d]pyrimidine | 0.23 g, 86% | BrC=1C=C(NC=2C3=C(N=CN2)N=C(C=C3)OC)C=CC1 | C14H11BrN4O
